US05736534
4-(5-Benzyloxy-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 90% yield from 5-benzyloxy-indoline (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 181°-182° C.; LC-MS: 415 (MH+); anal. RP18-HPLC RT: 4.78 min.).

reactant | 5-benzyloxy-indoline | 1.1 eq. | C(C1=CC=CC=C1)OC=1C=C2CCNC2=CC1 | C15H15NO
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(5-Benzyloxy-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline | 90% yield | C(C1=CC=CC=C1)OC=1C=C2CCN(C2=CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C25H23N3O3
